US05256675
A mixture of 2-acetylamino-5-chlorothiazole (5.3 g), 4-mercaptopyridine (3.4 g) and potassium carbonate in N,N-dimethylformamide (50 ml) was heated at 120° C. for 2.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was triturated with water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-acetylamino-5-(4-pyridylthio)thiazole (6.3 g, yield: 83.7%). IR (Nujol): 3150, 1680, 1580, 1300 cm-1

reactant | 2-acetylamino-5-chlorothiazole | 5.3 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | 4-mercaptopyridine | 3.4 g | SC1=CC=NC=C1 | C5H5NS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(4-pyridylthio)thiazole | 6.3 g, yield: 83.7% | C(C)(=O)NC=1SC(=CN1)SC1=CC=NC=C1 | C10H9N3OS2
